US04006243
[4-(1-Imidazolylmethyl)-phenyl]-(4-methoxybenzyl)-ether
This substance is prepared analogously to Example 1 from 4-(1-imidazolylmethyl)-phenol and 4-methoxybenzyl chloride.

reactant | 4-(1-imidazolylmethyl)-phenol | N1C(=NC=C1)CC1=CC=C(C=C1)O | C10H10N2O
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | [4-(1-Imidazolylmethyl)-phenyl]-(4-methoxybenzyl)-ether | N1C(=NC=C1)CC1=CC=C(C=C1)OCC1=CC=C(C=C1)OC | C18H18N2O2
